US04935430
(a) 4-(1-Bromo-2-oxopropyl)benzonitrile
Bromine (5.28 g) in dichloromethane (80 ml) was, added dropwise at 25° C. over 1 hour to 4-(2-oxopropyl) benzonitrile in dichloromethane (85 ml). The reaction mixture was stirred for 1/2 hour after the addition was complete. The mixture was washed with brine (50 ml), dried over magnesium sulphate and the solvent removed under reduced pressure to yield the title compound as a pale red oil (7.55 g, 96%).

reactant | Bromine | 5.28 g | BrBr | Br2
reactant | 4-(2-oxopropyl) benzonitrile | O=C(CC1=CC=C(C#N)C=C1)C | C10H9NO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
product | 4-(1-Bromo-2-oxopropyl)benzonitrile | 7.55 g, 96% | BrC(C(C)=O)C1=CC=C(C#N)C=C1 | C10H8BrNO
